US07501185B2
1.0 g of the polymer (A-12) produced in Production Example 1 was dissolved under heat in a mixed solvent of 5.0 ml of gamma-butyrolactone and 5.0 ml of anisole to prepare a coating solution. The ratio of all carbon atoms of the cage structure (diamantane) to all carbon atoms of the total solid content of the insulating film-forming coating solution was about 36%. The solution was filtered through a 0.1-micron tetrafluoroethylene filter, and then applied onto a silicon wafer in a mode of spin coating. The coating film was heated on a hot plate in a nitrogen stream atmosphere at 180° C. for 60 seconds, and then further on a hot plate at 300° C. for 10 minutes. The specific dielectric constant of the thus-formed insulating film having a thickness of 0.5 microns was 2.57. The Young's modulus of the film was 6.0 GPa. 3σ of the film thickness was calculated, and it was 2.8%.

reactant | gamma-butyrolactone | 5.0 ml | C1(CCCO1)=O | C4H6O2
reactant | anisole | 5.0 ml | C1(=CC=CC=C1)OC | C7H8O
product | diamantane | C1C2CC3C4C1C5CC(C4)CC3C5C2 | C14H20
